US07829717B2
3-[(Quinolin-4-ylmethyl)amino]thiophene-2-carboxylic acid [3-(2-methoxy-3,4-dioxocyclobut-1-enyl)phenyl]amide (14):
Nitrogen was bubbled through a solution containing 3-methoxy-4-tributylstannanylcyclobut-3-ene-1,2-dione (0.40 g, 1.0 mmol) and 3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxylic acid (3-iodophenyl)amide (0.54 g, 1.1 mmol) for 5 min, then benzylchlorobis(triphenyl phosphine)Pd(II) (45 mg, 0.06 mmol) and copper iodide (17 mg, 0.09 mmol) were added. The mixture stirred at rt for 1 h. EtOAc (50 mL) was added and the mixture was filtered, partitioned over saturated aqueous NH4Cl, and then washed with 10% aqueous KF solution. The aqueous layer was back-extracted with EtOAc (3×50 mL) and the combined organics were dried over MgSO4, filtered, and concentrated in vacuo. The mixture purified by silica gel chromatography (100% EtOAc) to yield a yellow oil. CH2Cl2 was added and the solution was sonicated. Title compound 3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxylic acid [3-(2-methoxy-3,4-dioxocyclobut-1-enyl)phenyl]amide precipitated out as a yellow solid and was filtered. MS (ES): m/z 470.0 [M+1]. 1H NMR (DMSO-d6, 400 MHz): δ=4.54 (s, 3H), 5.10 (d, J=6.4 Hz, 2H), 6.80 (d, J=3.2 Hz, 1H), 7.40 (d, J=4.0 Hz, 1H), 7.53 (t, J=7.2 Hz, 1H), 7.60-7.64 (m, 2H), 7.70 (t, J=8.0 Hz, 1H), 7.81 (t, J=8.0 Hz, 1H), 7.91 (d, J=8.4 Hz, 1H), 8.06 (d, J=8.08-8.12 (m, 1H), 8.32 (s, 1H), 8.85 (d, J=4.0 Hz, 1H), 9.75 (s, 1H).

reactant | 3-methoxy-4-tributylstannanylcyclobut-3-ene-1,2-dione | 1.0 mmol, 0.40 g | COC=1C(C(C1[Sn](CCCC)(CCCC)CCCC)=O)=O
reactant | 3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxylic acid (3-iodophenyl)amide | 1.1 mmol, 0.54 g | IC=1C=C(C=CC1)NC(=O)C=1SC=CC1NCC1=CC=NC2=CC=CC=C12 | C21H16IN3OS
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | copper iodide | 0.09 mmol, 17 mg | [Cu](I)I
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-[(Quinolin-4-ylmethyl)amino]thiophene-2-carboxylic acid [3-(2-methoxy-3,4-dioxocyclobut-1-enyl)phenyl]amide | COC1=C(C(C1=O)=O)C=1C=C(C=CC1)NC(=O)C=1SC=CC1NCC1=CC=NC2=CC=CC=C12 | C26H19N3O4S
